US08487094B2
Methyl 6-(4-((S)-1-((S)-6-(2-hydroxy-2-methylpropyl)-2-oxo-6-phenyl-1,3-oxazinan-3-yl)ethyl)phenyl)nicotinate (150 mg, 0.307 mmol) was dissolved in NH2Me/MeOH (10 mL). The mixture was stirred at rt overnight. The solvent was removed in vacuo to give the crude product, which was purified by preparative HPLC and chiral HPLC to afford 6-(4-((S)-1-((S)-6-(2-hydroxy-2-methylpropyl)-2-oxo-6-phenyl-1,3-oxazinan-3-yl) ethyl)phenyl)-N-methylnicotinamide (54 mg, 36%). LC-MS Method 2 tR=1.117 min, m/z=430.1; 1H NMR (CD3OD) 0.93 (s, 3H), 1.27 (s, 3H), 1.59 (d, 3H), 2.16 (s, 2H), 2.22-2.37 (m, 1H), 2.41-2.60 (m, 2H), 2.99 (s, 3H), 3.11 (m, 1H), 5.60 (m, 1H), 7.12 (d, 1H), 7.29 (m, 5H), 7.80 (m, 2H), 8.01 (d, 1H), 8.41 (d, 1H), 9.03 (s, 1H).

reactant | Methyl 6-(4-((S)-1-((S)-6-(2-hydroxy-2-methylpropyl)-2-oxo-6-phenyl-1,3-oxazinan-3-yl)ethyl)phenyl)nicotinate | 0.307 mmol, 150 mg | OC(C[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C1=NC=C(C(=O)OC)C=C1)C1=CC=CC=C1)(C)C | C29H32N2O5
reactant | NH2Me MeOH | 10 mL | NC.CO
product | 6-(4-((S)-1-((S)-6-(2-hydroxy-2-methylpropyl)-2-oxo-6-phenyl-1,3-oxazinan-3-yl) ethyl)phenyl)-N-methylnicotinamide | 54 mg, 36% | OC(C[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C1=NC=C(C(=O)NC)C=C1)C1=CC=CC=C1)(C)C | C29H33N3O4
